US06017675
α-(4-Chlorophenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide
As described under 1.2, 10.3 g (0.05 mol) of α-hydroxyimino-3,4-dimethoxybenzyl cyanide are reacted with 12.2 g (0.055 mol) of 4-chlorobenzenesulfonic acid chloride in the presence of triethylamine. After recrystallisation of the crude product from ethyl acetate/hexane, 15.9 g (84%) of α-(4-chlorophenyl-sulfonyloxyimino)-3,4-dimethoxybenzyl cyanide are obtained in the form of yellowish crystals having a melting point of 145.5-148.5° C. The 1H-NMR spectrum of the compound shows that it is a pure stereoisomer. The UV spectrum (acetonitrile) of the substance shows a broad absorption band with a maximum at 350 nm (ε=11660) that extends to 437 nm. Elemental analysis: C16H13ClN2O5S (380.80)

reactant | α-hydroxyimino-3,4-dimethoxybenzyl cyanide | 0.05 mol, 10.3 g | ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C10H10N2O3
reactant | 4-chlorobenzenesulfonic acid chloride | 0.055 mol, 12.2 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | α-(4-Chlorophenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide | ClC1=CC=C(C=C1)S(=O)(=O)ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C16H13ClN2O5S
